US08124629B2
To a solution of 4-(chloromethyl)-benzoic acid (8.53 g, 50 mmol) in toluene (100 mL) was added thionyl chloride (14.5 mL, 200 mmol) at room temperature. The resulting solution was heated at reflux for 15 hours. The reaction mixture was cooled to room temperature and concentrated under vacuum. The resulting oily residue was azeotroped with toluene and dried under high vacuum to obtain the crude acid chloride. To a suspension of the above crude acid chloride (50 mmol) in dichloromethane (110 mL) was added methylamine hydrochloride (3.72 g, 55 mmol) at −5° C. to 0° C. Diisopropylethylamine (19.3 mL, 110 mmol) was added drop-wise over 15-20 minutes at 0° C. After completion of the addition, the mixture was stirred for 45 minutes at 0° C., then warmed to room temperature. After stirring at room temperature for 15 minutes, the reaction mixture was diluted with water and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine and dried over anhydrous magnesium sulfate. Filtration and concentration gave the crude solid which was dissolved in toluene at ˜60-70° C. The resulting solution was stored in the refrigerator overnight and the precipitated solids were collected by filtration and then washed with hexanes. After drying in air, 4-(chloromethyl)-N-methyl-benzamide was isolated as a light yellow solid.

reactant | 4-(chloromethyl)-benzoic acid | 50 mmol, 8.53 g | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
reactant | thionyl chloride | 200 mmol, 14.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methylamine hydrochloride | 55 mmol, 3.72 g | Cl.CN
reactant | Diisopropylethylamine | 110 mmol, 19.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-(chloromethyl)-N-methyl-benzamide | ClCC1=CC=C(C(=O)NC)C=C1 | C9H10ClNO
